US08669234B2
A solution of hydrogen chloride (4N, 8 mL) in dioxane was added to a solution of (R)-{1-[5-(4′-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester (175 mg, 0.24 mmol) in dichloromethane (2 mL). After 1 hour the solvent was removed under reduced pressure. The resulting residue was placed on a high vacuum for 1 hour to provide (R)-{1-[2-(5-{4′-[2-(3-amino-2-oxo-piperidin-1-ylmethyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester. The yield was assumed to be 100% percent. A sample suitable for analysis was obtained by subjection to reverse phase chromatography with an eluent of 0.1% TFA in water and 0.1% TFA in acetonitrile. The product-containing fractions were combined and the solvent was removed by lyophilization. C35H42N8O4 calculated 638.3 observed [M+1]+ 639.4; rt=1.41 min. 1H (DMSO-d6): δ=8.33 (m, 1H), 8.12 (m, 1H), 7.99 (m, 1H), 7.92 (m, 6H), 7.26 (d, J=8.4 Hz, 1H), 5.13 (t, J=8.0 Hz, 1H), 4.83 (m, 2H), 4.09 (t J=8.0 Hz, 1H), 4.09-3.82 (series m, 6H), 2.36 (m, 2H), 2.14 (m, 2H), 1.96 (m, 4H), 0.76 (m, 6H).

reactant | hydrogen chloride | 4N, 8 mL | Cl | ClH
reactant | (R)-{1-[5-(4′-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester | 0.24 mmol, 175 mg | C(C)(C)(C)OC(N[C@H]1C(N(CCC1)CC=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O)=O | C40H50N8O6
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (R)-{1-[2-(5-{4′-[2-(3-amino-2-oxo-piperidin-1-ylmethyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(N[C@H](C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)CN1C(C(CCC1)N)=O)=O | C35H42N8O4
